US08664236B2
Synthesis of 1-benzenesulfonyl-5-(1-methyl-1H-pyrazol-4-yl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine
8 g of bis(pinacolato)diboron and 6.4 g of potassium acetate are added to a solution of 10 g of 1-benzenesulfonyl-3-iodo-5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine in 160 ml of DMF. This mixture is degassed in vacuo, and finally 1.8 g of 1,1′bis(diphenylphosphino)ferrocene-palladium(II) dichloride in a complex with dichloromethane are added. The batch is stirred at 80° C. for 12. After removal of the solvent in vacuo, the residue is partitioned between water and ethyl acetate, undissolved components are filtered off through kieselguhr with suction, and the solution remaining is separated into the phases. The organic phase is evaporated, and the residue is chromatographed on silica gel, giving 4.5 g (45%) of beige crystals.

reactant | bis(pinacolato)diboron | 8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.4 g | C(C)(=O)[O-].[K+]
reactant | 1-benzenesulfonyl-3-iodo-5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 10 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=NC=C(C2)C=2C=NN(C2)C)I | C17H13IN4O2S
solvent | DMF | 160 ml | CN(C)C=O | C3H7NO
product | 1-benzenesulfonyl-5-(1-methyl-1H-pyrazol-4-yl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 4.5 g, 45% | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=NC=C(C2)C=2C=NN(C2)C)B2OC(C(O2)(C)C)(C)C | C23H25BN4O4S
